US09353107B2
Step-ii: tert-butyl 4-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)piperidine-1-carboxylate
Using similar reaction conditions as described in step ii of intermediate-3, tert-butyl 4-(3-bromophenoxyl)piperidine-1-carboxylate (2.0 g, 5.71 mmol) was coupled with 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (1.73 g, 6.85 mmol) using potassium acetate (1.67 g, 17.13 mmol) and PdCl2(dppf) (208 mg, 0.285 mmol) in dioxane (20 mL) to give 2.1 g (91.3% yield) of the titled product after purification by chromatographic column (Silicagel-60/120) using 5% ethyl acetate as eluent. MS: m/z=304.0 (M-Boc+1).

reactant | tert-butyl 4-(3-bromophenoxyl)piperidine-1-carboxylate | 5.71 mmol, 2.0 g | BrC=1C=C(OC2CCN(CC2)C(=O)OC(C)(C)C)C=CC1 | C16H22BrNO3
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 6.85 mmol, 1.73 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 17.13 mmol, 1.67 g | C(C)(=O)[O-].[K+]
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | 0.285 mmol, 208 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | tert-butyl 4-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)piperidine-1-carboxylate | 2.1 g, 91.3% yield | CC1(OB(OC1(C)C)C=1C=C(OC2CCN(CC2)C(=O)OC(C)(C)C)C=CC1)C | C22H34BNO5
